US08012998B2
To a solution of 1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanone (2.31 g, 7.32 mmol) in THF (80 mL) at 0° C. were added portion wise LiAlH4 (0.245 g, 6.44 mmol). Stirring was continued for one hour, and the reaction mixture was carefully quenched by addition of aq. NH4Cl, concentrated under vacuo and the product extracted with EtOAC. The combined organic phases were dried on Na2SO4 and concentrated under vacuo. The two diastereoisomeres were separated by column chromatography (SiO2, EtOAc/H, 1:1) to yield (R)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (X-B-7) 0.98 g (42%) as a white solid ES-MS m/e: 318.1(M+H+) and (S)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (X-A-7) 0.86 g (37%) as a white solid ES-MS m/e: 318.1 (M+H+).

reactant | 1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanone | 7.32 mmol, 2.31 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)C(C)=O | C19H19F2NO
reactant | LiAlH4 | 6.44 mmol, 0.245 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (R)-1-[(3R,4S)-1-benzyl-4-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 0.98 g, 42% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)F)[C@@H](C)O | C19H21F2NO
